### PR TITLE
[Merged by Bors] - feat: characteristic function of a Gaussian measure

### PR DESCRIPTION
**Pull request by EtienneC30**
---

- [x] depends on: #31565

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean [hunk 1]
```diff
@@ -170,6 +170,28 @@ alias ⟨_, isGaussian_of_charFunDual_eq⟩ := isGaussian_iff_charFunDual_eq
...
+
+open InnerProductSpace
+open scoped RealInnerProductSpace
+
+variable {E : Type*} [NormedAddCommGroup E] [InnerProductSpace ℝ E] [MeasurableSpace E]
+    [CompleteSpace E] [BorelSpace E] {μ : Measure E}
+
+lemma isGaussian_iff_charFun_eq [IsFiniteMeasure μ] :
+    IsGaussian μ ↔
+    ∀ t, charFun μ t = exp (μ[fun x ↦ ⟪t, x⟫] * I - Var[fun x ↦ ⟪t, x⟫; μ] / 2) := by
```
Comment (ADedecker) [inline Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Genuine question (once again, I'm not used to this part of the library): why do you choose `μ[fun x ↦ ⟪t, x⟫]` instead of `⟪t, μ[id]⟫`? This is coherent with what is happening in [ProbabilityTheory.isGaussian_iff_charFunDual_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Distributions/Gaussian/Basic.html#ProbabilityTheory.isGaussian_iff_charFunDual_eq) of course.

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean [hunk 2]
```diff
@@ -170,6 +170,28 @@ alias ⟨_, isGaussian_of_charFunDual_eq⟩ := isGaussian_iff_charFunDual_eq
...
+  rw [isGaussian_iff_charFunDual_eq]
+  refine ⟨fun h t ↦ ?_, fun h L ↦ by simpa using h ((toDual ℝ E).symm L)⟩
+  convert h (toDualMap ℝ E t)
+  exact charFun_eq_charFunDual_toDualMap t
```
Comment (ADedecker) [inline Mathlib/Probability/Distributions/Gaussian/Basic.lean]:
```suggestion
  simp_rw [isGaussian_iff_charFunDual_eq, (toDual ℝ E).surjective.forall,
    charFun_eq_charFunDual_toDualMap]
  rfl
```

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean [hunk 3]
```diff
@@ -170,6 +170,28 @@ alias ⟨_, isGaussian_of_charFunDual_eq⟩ := isGaussian_iff_charFunDual_eq
...
+
+lemma IsGaussian.charFun_eq [IsGaussian μ] (t : E) :
+    charFun μ t = exp (μ[fun x ↦ ⟪t, x⟫] * I - Var[fun x ↦ ⟪t, x⟫; μ] / 2) := by
+  rw [isGaussian_iff_charFun_eq.1 inferInstance]
```
Comment (ADedecker) [inline Mathlib/Probability/Distributions/Gaussian/Basic.lean]: This result does not need the space to be complete, right? If so, could you reorder the proofs to state it in that context?

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean (hunk 1 above)
Comment (ADedecker) [inline Mathlib/Probability/Distributions/Gaussian/Basic.lean]: In fact I think this result should also be true without completeness by continuity of `charFunDual` in the variable `L`. But we don't know that `toDualMap` has dense range in general, so could you just leave a TODO?

Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Actually I added the other version in #30921. They are both useful. I put this one here because it has the same shape as `charFunDual` which makes it easier to transfer results on Banach spaces to Hilbert spaces, but the other way around is needed in #30921 because `µ[id]` is replaced by a general element `m`.

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Nice!

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean (hunk 1 above)
Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Oh I didn't know that `toDualMap` had dense range in general. I added the TODO.

Comment (ADedecker) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: It's actually a direct consequence of the representation theorem: a linear form $$f \in E'$$ extends trivially (maybe not for Lean) to $$f \in \hat{E}'$$, which is represented by a vector $$x\in \hat{E}$$. But then you just approximate this by a vector in $$E$$ and you're done.

Comment (ADedecker) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Well the Banach space version could also be changed to use `L (μ[id])` instead of `μ[L]`, right? But anyways I'll leave this discussion to the later PRs.

Comment (sgouezel) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: A difference is that in `μ[fun x ↦ ⟪t, x⟫]` you're integrating a real-valued function, which is always measurable and strongly measurable. While in `µ[id]` the identity is not always strongly measurable (when the space is not second-countable) so you can run into trouble.

Comment (ADedecker) [reply Mathlib/Probability/Distributions/Gaussian/Basic.lean]: Aha, this is a good point, thanks for the answer!
